US08202885B2
A solution of 6.25 g of a mixture of N-(6-chloro-3-methoxy-2-nitro-phenyl)-acetamide and N-(2-chloro-5-methoxy-4-nitro-phenyl)-acetamide in 30 mL of 25%-HCl and 150 mL of 1M-HCl was refluxed for 2 h. The reaction mixture was basified with 2M-NaOH and extracted with EtOAc. The organic phase was dried over anh. Na2SO4 and concentrated in vacuo. The crude product was purified by CC using EtOAc/heptane 1/3 to yield 819 mg of 6-chloro-3-methoxy-2-nitro-phenylamine as dark yellow oil.

reactant | N-(6-chloro-3-methoxy-2-nitro-phenyl)-acetamide | ClC1=CC=C(C(=C1NC(C)=O)[N+](=O)[O-])OC | C9H9ClN2O4
reactant | N-(2-chloro-5-methoxy-4-nitro-phenyl)-acetamide | ClC1=C(C=C(C(=C1)[N+](=O)[O-])OC)NC(C)=O | C9H9ClN2O4
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
product | 6-chloro-3-methoxy-2-nitro-phenylamine | 819 mg | ClC1=CC=C(C(=C1N)[N+](=O)[O-])OC | C7H7ClN2O3
